US03965101
To a solution of 75.0 g of 2-bromo-4-chlorophenol in 65 ml of water is added 16.0 g of sodium hydroxide and 100g of bromomethanesulfonic acid, sodium salt. The procedure of Example 1, part B, is followed to give about 74.5 g of 2-bromo-4-chlorophenoxymethanesulfonic acid, sodium salt, m.p. above 315°.

reactant | 2-bromo-4-chlorophenol | 75.0 g | BrC1=C(C=CC(=C1)Cl)O | C6H4BrClO
reactant | sodium hydroxide | 16.0 g | [OH-].[Na+]
reactant | bromomethanesulfonic acid | BrCS(=O)(=O)O | CH3BrO3S
reactant | sodium | [Na] | Na
solvent | water | 65 ml | O | H2O
product | 2-bromo-4-chlorophenoxymethanesulfonic acid | about 74.5 g | BrC1=C(OCS(=O)(=O)O)C=CC(=C1)Cl | C7H6BrClO4S
